US08530493B2
C1. (+/−)-3-(5-Methoxy-1H-indol-3-yl)-2-methyl-2-nitro-propionic acid methyl ester
A solution of commercially available 5-methoxy gramine (6.24 g) and commercially available methyl 2-nitro-propionate (4.07 g) in a mixture of toluene (50 ml) and N,N-dimethylformamide (2 ml) is refluxed for one day while bubbling argon through the reaction mixture. The solvent is evaporated, the residue is taken up in dichloromethane (300 ml), is washed subsequently with 2 M aqueous HCl, 2 M aqueous NaOH, and water, is dried and concentrated. Column chromatography of the residue (toluene-acetone, 98:2→95:5) gives the title compound (3.42 g, 38%). M.p. 109-110° C. (from ethyl acetate-light petroleum).

reactant | 5-methoxy gramine | 6.24 g | CN(C)CC1=CNC2=C1C=C(C=C2)OC | C12H16N2O
reactant | methyl 2-nitro-propionate | 4.07 g | [N+](=O)([O-])C(C(=O)OC)C | C4H7NO4
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | (+/−)-3-(5-Methoxy-1H-indol-3-yl)-2-methyl-2-nitro-propionic acid methyl ester | 3.42 g, 38% | COC(C(CC1=CNC2=CC=C(C=C12)OC)([N+](=O)[O-])C)=O | C14H16N2O5
